US07557105B2
4-[(3-Oxo-1-piperazinyl)methyl]-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]benzamide
A solution of propylphosphonic anhydride in N,N-dimethylformamide (Fluka, Buchs, Switzerland; 1.3 mL of 50%, 2.25 mmol) is added dropwise to a stirred mixture of 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine (416 mg, 1.5 mmol), 4-[(3-oxo-1-piperazinyl)methyl]benzoic acid (351 mg, 1.5 mmol) and triethylamine (1.7 mL, 12 mmol) in dry N,N-dimethylformamide (4 mL). The mixture is stirred for 17 hours at room temperature and then treated with saturated aqueous sodium hydrogen carbonate solution (100 mL). The resulting precipitate is filtered, washed with water, dried and recrystallised from methanol to give the title compound as a cream crystalline solid.

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine | 1.5 mmol, 416 mg | CC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)N | C16H15N5
reactant | 4-[(3-oxo-1-piperazinyl)methyl]benzoic acid | 1.5 mmol, 351 mg | O=C1CN(CCN1)CC1=CC=C(C(=O)O)C=C1 | C12H14N2O3
reactant | triethylamine | 12 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.25 mmol, 1.3 mL | CN(C=O)C | C3H7NO
product | 4-[(3-Oxo-1-piperazinyl)methyl]-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]benzamide | O=C1CN(CCN1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C28H27N7O2
